US06060508
17 g (75.6 mmol) of 2,3-dimethyl-7-bromobenzofuran and 250 ml of tetrahydrofuran are introduced under an inert atmosphere into a 1 liter round-bottomed flask. The mixture is cooled to -78° C. by a bath of dry ice in acetone. 60 ml of tert-butyllithium (1.4M in pentane) are added dropwise and the reaction mixture is allowed to stir for 10 minutes. 17.5 ml of N,N-dimethylformamide (227 mmol) are then added dropwise and the reaction mixture is allowed to return to room temperature. 100 ml of water are added and then extraction is carried out with ethyl acetate (3×80 ml). The organic phases are combined, dried over magnesium sulphate and concentrated. The residue is purified by chromatography on a silica column (elution solvent cyclohexane: ethyl acetate 9:1). 11.97 g (Yield: 91%) of 2,3-dimethyl-7-formylbenzofuran are obtained. M.p. =56-58° C.

reactant | 2,3-dimethyl-7-bromobenzofuran | 75.6 mmol, 17 g | CC=1OC2=C(C1C)C=CC=C2Br | C10H9BrO
reactant | dry ice | C(=O)=O | CO2
reactant | tert-butyllithium | 1.4M, 60 ml | C(C)(C)(C)[Li]
reactant | N,N-dimethylformamide | 227 mmol, 17.5 ml | CN(C=O)C | C3H7NO
solvent | acetone | CC(=O)C | C3H6O
solvent | water | 100 ml | O | H2O
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | 2,3-dimethyl-7-formylbenzofuran | 11.97 g, Yield: 91% | CC=1OC2=C(C1C)C=CC=C2C=O | C11H10O2
